US07902363B2
A mixture of 4-[(3S)-3,7-dimethyl-6-octenyl]phenylboronic acid (5.00 g, 19.2 mmol), 4-iodoaniline (2.79 g, 12.75 mmol), and a quaternary ammonium salt (Aliquat 336, 1.3 g) was degased three times with nitrogen before 100 mL of dry toluene was added. This step was followed by addition of tetrakis(triphenylphosphine)palladium (1.46 g) and aqueous sodium carbonate (1 M, 60 mL, deaerated for 2 hours) under nitrogen. The mixture was stirred vigorously and heated under reflux for 20 hours. The organic phase of the resulting reaction mixture was filtered through a thin layer of Celite® and evaporated to dryness to give 3.09 g of crude material. The crude material was purified by chromatography on silica gel (ethyl acetate:hexanes) to yield 4-[(3S)-3,7-dimethyl-6-octenyl]-4′-aminobiphenyl as a yellow oil (2.64 g, 8.59 mmol, 67.4% yield).

reactant | 4-[(3S)-3,7-dimethyl-6-octenyl]phenylboronic acid | 19.2 mmol, 5.00 g | C[C@H](CCC1=CC=C(C=C1)B(O)O)CCC=C(C)C | C16H25BO2
reactant | 4-iodoaniline | 12.75 mmol, 2.79 g | IC1=CC=C(N)C=C1 | C6H6IN
product | 4-[(3S)-3,7-dimethyl-6-octenyl]-4′-aminobiphenyl | 8.59 mmol, 2.64 g, 67.4% yield | C[C@H](CCC1=CC=C(C=C1)C1=CC=C(C=C1)N)CCC=C(C)C | C22H29N
